US04640920
(b) N-[(1-ethyl-2-pyrrolidinyl)methyl]-4-(7-trifluoromethyl-4-quinazolinylamino)benzamide
A mixture of 2-aminomethyl-1-ethylpyrrolidine (0.34 ml; 0.00235 mole), anhydrous sodium carbonate (3.5 g) and chloroform (100 ml) was cooled on an ice bath and treated with 4-(7-trifluoromethyl-4-quinazolinylamino) benzene sulphonylchloride hydrochloride (1.0 g; 0.00235 mole) with vigorous sitrring. The mixture was stirred at ambient temperature for 4 hours and then filtered. The residue on evaporation of the solvent was triturated with ether and the resulting solid was filtered off, washed with a little ether and dried to give the quarter hydrate of the title compound (0.28 g), melting point 150°-152° C.

reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.00235 mole, 0.34 ml | NCC1N(CCC1)CC | C7H16N2
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(7-trifluoromethyl-4-quinazolinylamino) benzene sulphonylchloride hydrochloride | 0.00235 mole, 1.0 g | Cl.FC(C1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(1-ethyl-2-pyrrolidinyl)methyl]-4-(7-trifluoromethyl-4-quinazolinylamino)benzamide | 0.28 g | C(C)N1C(CCC1)CNC(C1=CC=C(C=C1)NC1=NC=NC2=CC(=CC=C12)C(F)(F)F)=O | C23H24F3N5O
